US04755323
One boils a solution of 29.6 g. 1-p-ethoxyphenyl-4-hydroxymethyl-3-oxa-nonan-1-ol (obtainable by reaction of p-ethoxyphenacyl bromide with 2-hydroxyheptanoic acid ethyl ester to give 2-p-ethoxyphenacyloxyheptanoic acid ethyl ester and reduction with LiAlH4) and 1 g. p-toluenesulphonic acid in 400 ml. toluene for 1 hour with water separator, washes with NaHCO3 solution, dries, evaporates and obtains trans-2-p-ethoxyphenyl-5-pentyl-1,4-dioxane.

reactant | 1-p-ethoxyphenyl-4-hydroxymethyl-3-oxa-nonan-1-ol | C(C)OC1=CC=C(C=C1)C(COC(CCCCC)CO)O | C17H28O4
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | trans-2-p-ethoxyphenyl-5-pentyl-1,4-dioxane | C(C)OC1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC | C17H26O3
